US05128448
To a solution of tricyclo[3.3.1.1-3,7]decane-2-propanoic acid ethyl ester (0.011 mol, 2.68 g) in anhydrous ethanol (135 mL) was added potassium hydroxide (0.057 mol, 3.18 g) in several portions. The clear solution was heated at reflux for 1 h, cooled to ambient temperature, and concentrated. The yellow residue was partitioned with CH2Cl2 (100 mL) and water (50 mL), and the basic, aqueous phase extracted with CH2Cl2 (100 mL). The aqueous phase was re-acidified (pH 2) by the addition of 10% aqueous hydrochloric acid, and extracted with CH2Cl2 (3×50 mL). The combined organic extracts were dried (Na2SO4) and concentrated to provide tricyclo[3.3.1.1-3,7]decane-2-propanoic acid as a white solid (96%, 2.27 g). mp 115.5°-116° C.

reactant | tricyclo[3.3.1.1-3,7]decane-2-propanoic acid ethyl ester | 0.011 mol, 2.68 g | C(C)OC(CCC1C2CC3CC(CC1C3)C2)=O | C15H24O2
reactant | potassium hydroxide | 0.057 mol, 3.18 g | [OH-].[K+]
solvent | ethanol | 135 mL | C(C)O | C2H6O
product | tricyclo[3.3.1.1-3,7]decane-2-propanoic acid | 2.27 g, 96% | C12C(C3CC(CC(C1)C3)C2)CCC(=O)O | C13H20O2
